US05900484
N-(2,2,2-Trifluoroethyl)-6-[1-methyl-3-(trifluoromethyl)pyrazol-5-yloxy]pyridine-2-carboxamide
Analogously to Example 14, 1.39 g (5 mmol) of 2-chloro-6-[1-methyl-3-(trifluoromethyl)-pyrazol-5-yloxy]pyridine, 0.75 g (7.57 mmol, 98 percent content) of 2,2,2-trifluoroethylamine, 0.80 g (7.55 mmol) of anhydrous sodium carbonate, 5.6 mg (25 μmol) of palladium(II) acetate and 88 mg (0.25 mmol) of tris(4-methoxyphenyl)phosphine in 20 ml of methylcyclohexane were reacted under a CO pressure of 21 bar. The yield was 0.96 g (75.4 percent) of a white solid. The melting point was 135.8° to 136.3° C. (from methylcyclohexane). Other data concerning the product was:

reactant | 2-chloro-6-[1-methyl-3-(trifluoromethyl)-pyrazol-5-yloxy]pyridine | 5 mmol, 1.39 g | ClC1=NC(=CC=C1)OC1=CC(=NN1C)C(F)(F)F | C10H7ClF3N3O
reactant | 2,2,2-trifluoroethylamine | 7.57 mmol, 0.75 g | FC(CN)(F)F | C2H4F3N
reactant | sodium carbonate | 7.55 mmol, 0.80 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | tris(4-methoxyphenyl)phosphine | 0.25 mmol, 88 mg | COC1=CC=C(C=C1)P(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C21H21O3P
solvent | methylcyclohexane | 20 ml | CC1CCCCC1 | C7H14
catalyst | palladium(II) acetate | 25 μmol, 5.6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-(2,2,2-Trifluoroethyl)-6-[1-methyl-3-(trifluoromethyl)pyrazol-5-yloxy]pyridine-2-carboxamide | FC(CNC(=O)C1=NC(=CC=C1)OC1=CC(=NN1C)C(F)(F)F)(F)F | C13H10F6N4O2
